US04983608
To a solution of 4,6-dichloropyrimidine (5.0 g), in 50 ml absolute ethanol was added triethylamine (5.8 ml), followed by a solution of N-methyl-1H-pyrrol-1-amine (3.2 g), in 30 ml ethanol. After stirring at 80° C. for twenty hours, the mixture was poured into 300 ml water, stirred for five minutes, and the resultant tan precipitate collected and dried to give 2.4 g, m.p. 88°-89° C. This material was sublimed at 75° C./1.0 mm Hg to give 2.2 g (31%) of 6-Chloro-N-methyl-N-(1H-pyrrol-1-yl)-4-pyrimidinamine, m.p. 88°-89° C.

reactant | 4,6-dichloropyrimidine | 5.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | triethylamine | 5.8 ml | C(C)N(CC)CC | C6H15N
reactant | N-methyl-1H-pyrrol-1-amine | 3.2 g | CNN1C=CC=C1 | C5H8N2
reactant | water | 300 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-Chloro-N-methyl-N-(1H-pyrrol-1-yl)-4-pyrimidinamine | 2.2 g, 31% | ClC1=CC(=NC=N1)N(N1C=CC=C1)C | C9H9ClN4
